US05162311
(±)-α-Palmitoylamino-3-(5-phosphonomethyl-[1.1'-biphenyl]3-yl) propanoic acid
To a mixture of 335 mg (±)-α-amino-3-(5-phosphonomethyl-[1.1'-biphenyl]3-yl) propanoic acid in 30 ml dimethylformamide and 0.76 ml N-ethyldiisopropylamine under nitrogen are added dropwise at room temperature within 10 minutes 0.4 ml palmitic acid chloride. The mixture is stirred at room temperature for 26 hours. The solvent is evaporated in vacuo. The oily residue is taken up in water, acidified with 2N HCl to pH 1 and extracted with diethyl ether. The extract is washed with saturated aqueous sodium chloride solution, dried (Na2SO4) and evaporated. The residue is recrystallized from diethyl ether/petroleum ether to yield the title compound, m.p. 130°-140°. MS (FAB):574(MH+).

reactant | (±)-α-amino-3-(5-phosphonomethyl-[1.1'-biphenyl]3-yl) propanoic acid | 335 mg | NC(C(=O)O)CC=1C=C(C=C(C1)CP(=O)(O)O)C1=CC=CC=C1 | C16H18NO5P
reactant | palmitic acid chloride | 0.4 ml | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N-ethyldiisopropylamine | 0.76 ml | C(C)N(C(C)C)C(C)C | C8H19N
product | (±)-α-Palmitoylamino-3-(5-phosphonomethyl-[1.1'-biphenyl]3-yl) propanoic acid | C(CCCCCCCCCCCCCCC)(=O)NC(C(=O)O)CC=1C=C(C=C(C1)CP(=O)(O)O)C1=CC=CC=C1 | C32H48NO6P
